US08110579B2
Add 17.7 mL (126 mmol) of TEA to a mixture of 38.8 g (105 mmol) of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate in 200 mL of DCM. The mixture dissolves gradually and is cooled to −5° C. under argon. Add, dropwise, 19.42 mL (115.4 mmol) of trifluoromethanesulphonic anhydride, maintaining the temperature at 0° C. After 3 h at 0° C., take up the reaction mixture in 300 mL of DCM and wash with 2×200 mL of water, dry over Na2SO4, then concentrate under reduced pressure. Purify the residue obtained by chromatography on a silica column, eluting with a pentane/EtOAc gradient from 0 to 30% of EtOAc. After concentration under reduced pressure, we obtain 47.5 g of methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate in the form of white crystals.

reactant | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-hydroxypyridine-2-carboxylate | 105 mmol, 38.8 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)O | C20H16ClNO4
reactant | trifluoromethanesulphonic anhydride | 115.4 mmol, 19.42 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | methyl 6-[3-(benzyloxy)-4-chlorophenyl]-5-{[(trifluoromethyl)sulphonyl]oxy}pyridine-2-carboxylate | 47.5 g, Yield=90% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C1=C(C=CC(=N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C21H15ClF3NO6S
